US04206156
A mixture of 3-(N-hydroxyamino)propylphosphonic acid (1.64 g), potassium isocyanate (2.43 g) and water (17 ml) was stirred at ambient temperature for 3 hours, while maintaining the pH at around 5-7 with 3 N hydrochloric acid. The reaction mixture was adjusted to pH 9 with 1 N aqueous sodium hydroxide solution and then stirred at ambient temperature for 20 minutes. The resultant mixture was adjusted to the pH 1.8 with 3 N hydrochloric acid and concentrated under reduced pressure. The residue was extracted with methanol and the extract was concentrated under reduced pressure to give crude 3-(N-carbamoyl-N-hydroxyamino)propylphosphonic acid (2.50 g). A part (1 g) of the object compound was dissolved in water (5 ml), and the solution was passed through a column of nonionic adsorption resin Diaion HP 20 (trade name, made by Mitsubishi Chemical Industries). The object compound was eluted with water. The fractions containing the object compound was collected and evaporated to dryness to give powdery 3-(N-carbamoyl-N-hydroxyamino)propylphosphonic acid (410 mg).

reactant | 3-(N-hydroxyamino)propylphosphonic acid | 1.64 g | ONCCCP(O)(O)=O | C3H10NO4P
reactant | potassium isocyanate | 2.43 g | [N-]=C=O.[K+]
reactant | hydrochloric acid | 3 N | Cl | ClH
reactant | sodium hydroxide | 1 N | [OH-].[Na+]
reactant | hydrochloric acid | 3 N | Cl | ClH
solvent | water | 5 ml | O | H2O
solvent | water | 17 ml | O | H2O
product | 3-(N-carbamoyl-N-hydroxyamino)propylphosphonic acid | 410 mg | C(N)(=O)N(O)CCCP(O)(O)=O | C4H11N2O5P
